US07659268B2
N-(6-Chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (93 mg, 0.26 mmol) was dissolved in 1,2-dimethoxyethane (2.5 mL) in a reaction tube. Methyl 1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopropanecarboxylate (100 mg, 0.33 mmol), aqueous 2 M sodium carbonate (0.25 mL), and (Ph3P)4Pd (15 mg, 0.013 mmol) were added and the reaction mixture was heated at 120° C. for 20 minutes in the microwave. The resulting material was cooled to room temperature, filtered, and evaporated under reduced pressure. The residue was purified by prep LC-MS to yield methyl 1-(3-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-3-methylpyridin-2-yl)phenyl)cyclopropanecarboxylate, which was used in the next step without further purification.

reactant | N-(6-Chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 0.26 mmol, 93 mg | ClC1=C(C=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C | C17H13ClF2N2O3
reactant | Methyl 1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopropanecarboxylate | 0.33 mmol, 100 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C1(CC1)C(=O)OC)C | C17H23BO4
reactant | sodium carbonate | 2 M, 0.25 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 2.5 mL | COCCOC | C4H10O2
catalyst | (Ph3P)4Pd | 0.013 mmol, 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 1-(3-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-3-methylpyridin-2-yl)phenyl)cyclopropanecarboxylate | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C(=N2)C=2C=C(C=CC2)C2(CC2)C(=O)OC)C)F | C28H24F2N2O5
